US07834036B2
Step 8. Benzisoxazole Formation
To a 100 L cylindrical vessel with heating coils were charged EtOAc (20 L) and TsOH/H2O (2.304 kg, 12.11 mol), and the mixture was heated to 35-45° C. to dissolve. The acid solution was fed into the isoxazole batch with further distilling, maintaining a constant volume of 25 L. An additional 20 L of EtOAc was distilled to azeotropically dry the mixture. A slurry began to form, and it continued to thicken on addition and concentration. The final KF was 400 ppm water. The batch was heated to 60° C. and allowed to slowly cool to ambient temperature overnight.

reactant | EtOAc | 20 L | CCOC(=O)C | C4H8O2
reactant | TsOH H2O | 12.11 mol, 2.304 kg | CC=1C=CC(=CC1)S(=O)(=O)O.O
reactant | isoxazole | O1N=CC=C1 | C3H3NO
reactant | KF | [F-].[K+]
solvent | water | O | H2O
product | Benzisoxazole | O1N=CC2=C1C=CC=C2 | C7H5NO
